US07259175B2
A mixture of 6-chloro-nicotinic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester (16.3 g, 57.1 mmol) and ammonium acetate (18.5 g, 240 mmol) in ethanol (150 mL) is heated at 80° C. for 2 h, concentrated. The residue is taken into acetic acid (330 mL) and heated to reflux overnight, concentrated. The residue is taken into ethyl acetate and washed with water, dried, concentrated, purified by column giving [2-(6-Chloro-pyridin-3-yl)-5-methyl-oxazol-4-yl]-acetic acid methyl ester (4.3 g).

reactant | 6-chloro-nicotinic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester | 57.1 mmol, 16.3 g | COC(=O)CC(C(C)OC(C1=CN=C(C=C1)Cl)=O)=O | C12H12ClNO5
reactant | ammonium acetate | 240 mmol, 18.5 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | [2-(6-Chloro-pyridin-3-yl)-5-methyl-oxazol-4-yl]-acetic acid methyl ester | 4.3 g | COC(CC=1N=C(OC1C)C=1C=NC(=CC1)Cl)=O | C12H11ClN2O3
